US08283364B2
1,1-Dimethylethyl 4-(4,5-difluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate (D22)
1,1-dimethylethyl 4-({[(2,3-difluoro-6-iodo-4-methylphenyl)amino]carbonyl}amino)-1-piperidine-carboxylate D21 was dissolved in 1 ml dioxan. Under an argon atmosphere, a mixture of 1,4-dioxane (3 ml), Pd2 dba3 (35 mg, 0.4 mmol), NatBuO (120 mg, 1.20 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (21 mg, 0.4 mmol) was stirred for 10 minutes at room temperature and then 1,1-dimethylethyl 4-({[(2,3-difluoro-6-iodo-4-methylphenyl)amino]carbonyl}amino)-1-piperidine-carboxylate D21 (300 mg) was added and the mixture heated at 80° C. for 2 h. The reaction mixture was cooled to room temperature, quenched with NH4Cl (saturated solution) and extracted with ethyl acetate, Drying (MgSO4), evaporation, and crystallisation from diethyl ether gave 150 mg of the title compound. M−−H=366.

reactant | 1,1-dimethylethyl 4-({[(2,3-difluoro-6-iodo-4-methylphenyl)amino]carbonyl}amino)-1-piperidine-carboxylate | FC1=C(C(=CC(=C1F)C)I)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C18H24F2IN3O3
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.4 mmol, 35 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.4 mmol, 21 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl 4-(4,5-difluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate | 150 mg | FC1=C(C(=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C)F | C18H23F2N3O3
